US06683201B2
In analogy to example 18.3, reaction of (4-Iodo-phenyl)-methyl-carbamic acid tert-butyl ester with propargylalcohol yielded [4-(3-Hydroxy-prop-1-ynyl)-phenyl]-methyl-carbamic acid tert-butyl ester, MS: 261 (M+).

reactant | (4-Iodo-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)I)=O | C12H16INO2
reactant | propargylalcohol | C(C#C)O | C3H4O
product | [4-(3-Hydroxy-prop-1-ynyl)-phenyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)C#CCO)=O | C15H19NO3
